US05504232
1,2-Bis(3-methoxyindenyl) ethane (9)
10.9 g (75 mmol) of 3-methoxyindene (prepared as described in J. Am. Chem. Soc. 106 (1984) 6702) were dissolved in 100 ml of THF, and 47 ml (75.2 mmol) of a 1.6M butyllithium solution in hexane were added. The mixture was stirred at 50° C. for 2 hours, 3.25 ml (30.1 mmol) of 1,2-dibromoethane in 30 ml of THF were added dropwise at -78° C., and the mixture was warmed to room temperature. The solvent was stripped off, and the product was extracted with toluene. Yield 6.2 g (64%).

reactant | 3-methoxyindene | 75 mmol, 10.9 g | COC1=CCC2=CC=CC=C12 | C10H10O
reactant | butyllithium | 1.6M | C(CCC)[Li]
reactant | 1,2-dibromoethane | 30.1 mmol, 3.25 ml | BrCCBr | C2H4Br2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1,2-Bis(3-methoxyindenyl) ethane | COC1=CC(C2=CC=CC=C12)CCC1C=C(C2=CC=CC=C12)OC | C22H22O2
